US06159990
To a solution of 1-(3-amino-propyl)-4-methyl-4-phenyl-piperidine (60 mg, 0.258 mmol) in 10 mL of THF, 4-(3,4-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester (60 mg, 0.165 mmol) was added and the resulting yellow solution was stirred under argon atmosphere for 2 h at room temperature. The solvent was removed in vacuo and the residue was purified by column chromatography over silica gel with 1:1 hexane/EtOAc followed by MeOH:EtOAc=1:19 (Rf =0.45, MeOH:EtOAc=1:3) to obtain 4-(3,4-difluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid {3-[4-methyl-4-phenyl-piperidin-1-yl)-propyl}-amide (56 mg, 74%). The compound was dissolved in CH2Cl2 (3 mL) and was treated with 1N HCl in ether (1 mL). The solvent was removed in vacuo to give the corresponding hydrochloride salt as a pale yellow solid. M. P. 176-178° C.; [α]D =+76.9, (c=0.23, MeOH); Anal. Calcd. For C25H30N3O3F2Cl.0.60 CH2Cl2 : C, 56.32; H, 5.94; N, 7.70. Found: C, 56.30; H, 5.80; N, 7.35.

reactant | 1-(3-amino-propyl)-4-methyl-4-phenyl-piperidine | 0.258 mmol, 60 mg | NCCCN1CCC(CC1)(C1=CC=CC=C1)C | C15H24N2
reactant | 4-(3,4-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | 0.165 mmol, 60 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=C(C=C1)F)F)=O | C16H10F2N2O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(3,4-difluoro-phenyl)-2-oxo-oxazolidine-3-carboxylic acid {3-[4-methyl-4-phenyl-piperidin-1-yl)-propyl}-amide | 56 mg, 74% | CC1(CCN(CC1)CCCNC(=O)N1C(OCC1C1=CC(=C(C=C1)F)F)=O)C1=CC=CC=C1 | C25H29F2N3O3
